US07868030B2
N-[(5-Methoxy-4-methyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide
N-[(5-Bromo-4-methyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide (41 mg, 0.11 mmol) was treated with sodium methanethiolate (31 mg, 0.42 mmol) in methanol (3.1 ml) at 80° C. for 4 days. After purification on preparative HPLC, 9 mg of the title compound were unexpectedly obtained as a white, amorph, freeze-dried solid. MS (ES): m/e 340.1 (M−H)

reactant | N-[(5-Bromo-4-methyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide | 0.11 mmol, 41 mg | BrC1=C(N=C(S1)NC(=O)NS(=O)(=O)C1=CC(=CC=C1)C)C | C12H12BrN3O3S2
reactant | sodium methanethiolate | 0.42 mmol, 31 mg | C[S-].[Na+]
reactant | methanol | 3.1 ml | CO | CH4O
product | N-[(5-Methoxy-4-methyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide | COC1=C(N=C(S1)NC(=O)NS(=O)(=O)C1=CC(=CC=C1)C)C | C13H15N3O4S2
